US07078428B2
N-[(2-Isopropyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 1.5 g of potassium tert-butoxide, 1.3 g of guanidinium chloride and 0.7 g of ethyl (2-isopropyl-3-oxo-2,3-dihydro-1H-isoindol1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours, followed by addition of 30 cm3 of water. The aqueous phase is extracted with 3 times 50 cm3 of ethyl acetate and is then concentrated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 45° C. The residue is taken up in water, triturated and filtered. The solid is taken up in a mixture of dichloromethane/methanol (90/10 by volume) and filtered, and the filtrate is purified by chromatography under argon pressure (60 kPa), on a column of silica gel (particle size 15-40 μm), eluting with a dichloromethane/methanol mixture (90/10 by volume). The fractions comprising the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.05 g of N-[(2isopropyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is thus obtained in the form of a white solid. Mass spectrum EI: m/e 274 (M+), m/e 187, m/e 132. Infrared spectrum (KBr): 3412; 1974; 1667; 1603; 1531; 1367 and 698 cm−1.

reactant | potassium tert-butoxide | 1.5 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 1.3 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (2-isopropyl-3-oxo-2,3-dihydro-1H-isoindol1-yl)acetate | 0.7 g | C(C)(C)N1C(C2=CC=CC=C2C1=O)CC(=O)OCC | C15H19NO3
solvent | water | 30 cm3 | O | H2O
product | N-[(2isopropyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 0.05 g | C(C)(C)N1C(C2=CC=CC=C2C1=O)CC(=O)NC(=N)N | C14H18N4O2
